US05939546
Preparation of 1-Trimethylsilyl-4,5-dichloroimidazole
Into a 100 mL 3 neck round bottom flask fitted with a dropping funnel, nitrogen inlet tube, and gas exit tube was loaded 4,5-dichloroimidazole, 5.08 g (37.1 mmol) and 50 mL anhydrous CH3CN. To this solution was added in five minutes hexamethyldisilazane, 4.50 g (27.9 mmol), under nitrogen and with stirring. The resulting mixture was refluxed for 20 hours under nitrogen. After the specified time, the flask and contents were cooled slightly, the flask was fitted with a fractional distillation head, and then heating continued. The first liquid fraction was collected at 80° C. at ambient pressure. When the last amount of the first liquid fraction had been collected, the system was put under 0.2 Torr vacuum and heating was continued. The second liquid fraction was collected at 114° C. (0.2 Torr) and weighed 6.96 g (89.8%). The product was subsequently handled in a nitrogen atmosphere. Analysis of the product by NMR (CD2Cl2) was consistent with the desired product at greater than 97.3% purity.

reactant | 4,5-dichloroimidazole | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 1-Trimethylsilyl-4,5-dichloroimidazole | C[Si](N1C=NC(=C1Cl)Cl)(C)C | C6H10Cl2N2Si
